US06407116B1
2-Amino-N-[4-(4-diphenylmethoxypiperidino)butyl]benzamide
Using the method similar to that in Reference Example 1 and using 1-(4-aminobutyl)-4-diphenylmethoxypiperidine instead of 4-methoxybenzylamine and starting from isatoic anhydride (3.18 g), the title compound (9.14 g, about 100%) was synthesized. Recrystallization from ethyl acetate-isopropyl ether yielded a colorless crystal, melting point 74.0 to 75.0° C.

reactant | 1-(4-aminobutyl)-4-diphenylmethoxypiperidine | NCCCCN1CCC(CC1)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C22H30N2O
reactant | isatoic anhydride | 3.18 g | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
product | 2-Amino-N-[4-(4-diphenylmethoxypiperidino)butyl]benzamide | 9.14 g, about 100% | NC1=C(C(=O)NCCCCN2CCC(CC2)OC(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1 | C29H35N3O2
